US07074800B1
A suspension of 4-chloro-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline (100 mg, 0.31 mmol), (prepared as described for the starting material in Example 9), and 7-hydroxy-2-methylquinoline (54 mg, 0.34 mmol), (J. Med. Chem. 1998, 41, 4062), in DMF (3 ml) containing potassium carbonate (86 mg, 0.62 mmol) was heated at 90° C. for 2 hours. After cooling, the mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with water, brine, dried and the volatiles were removed by evaporation. The residue was triturated with minimal ether, collected by filtration and dried under vacuum to give 6-methoxy-4-(2-methylquinolin-7-yloxy)-7-(3-pyrrolidin-1-ylpropoxy)quinazoline (95 mg, 69%).

reactant | 4-chloro-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline | 0.31 mmol, 100 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | 7-hydroxy-2-methylquinoline | 0.34 mmol, 54 mg | OC1=CC=C2C=CC(=NC2=C1)C | C10H9NO
reactant | potassium carbonate | 0.62 mmol, 86 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-4-(2-methylquinolin-7-yloxy)-7-(3-pyrrolidin-1-ylpropoxy)quinazoline | 95 mg, 69% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCCC1)OC1=CC=C2C=CC(=NC2=C1)C | C26H28N4O3
